US09126934B2
Toluene (810 ml), 90 ml of dimethyl acetamide, 113.2 g of 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4(1H)-one, and 4.8 g of tetrabutylammonium bromide were added to a glass vessel equipped with a stirring device, a thermometer, and a reflux condenser and having a volume of 3000 ml, and the mixture was stirred at room temperature. A 48% aqueous sodium hydroxide solution (50 g) was added dropwise thereto at 30 to 35° C., and the mixture was stirred at the same temperature for one hr. After cooling to 10 to 15° C., 34 g of methyl chloroformate was added dropwise, and a reaction was allowed to proceed at the same temperature for one hr. Water was added to the reaction solution. After washing, toluene was removed by evaporation, and the precipitated solid was collected by a suction filter. The solid was dried in vacuo to give 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4-yl methyl carbonate (128 g, yield 98%). It was confirmed from the results of measurement of 1H-NMR that the compound thus obtained was a compound of No. 120 described in WO2006/013896 (patent document 1).

reactant | Toluene | 810 ml | C1(=CC=CC=C1)C | C7H8
reactant | 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4(1H)-one | 113.2 g | C(C)C=1NC2=CC(=C(C=C2C(C1C)=O)OC1=CC=C(C=C1)OC(F)(F)F)C | C20H18F3NO3
reactant | sodium hydroxide | 50 g | [OH-].[Na+]
reactant | methyl chloroformate | 34 g | ClC(=O)OC | C2H3ClO2
catalyst | tetrabutylammonium bromide | 4.8 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | O | H2O
solvent | dimethyl acetamide | 90 ml | CC(=O)N(C)C | C4H9NO
product | 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4-yl methyl carbonate | 128 g, yield 98% | C(OC1=C(C(=NC2=CC(=C(C=C12)OC1=CC=C(C=C1)OC(F)(F)F)C)CC)C)(OC)=O | C22H20F3NO5
